US06737503B2
In a nitrogen atmosphere, 76.4 g (0.693 mole) of resorcinol, 382 g (3.34 mole) of m-difluorobenzene, 500 g (3.62 mole) of potassium carbonate and 1 liter of 1,3-dimethyl-2-imidazolidinone (abbreviated to DMI hereinafter) were placed in a 3-liter SUS autoclave, and the autoclave was closed. Then, the reaction vessel was purged with nitrogen, and the internal temperature was raised up to 220° C. with stirring. The contents in the reaction vessel were stirred for 20 hours under heating at 220° C. During the stirring, the internal pressure was not more than 0.7 MPa. The progress of the reaction was confirmed by high performance liquid chromatography (HPLC). The intermediate product, 3-(3-fluorophenoxy)phenol almost disappeared at this time. After cooling to room temperature, the reaction mixture was filtered to separate a salt. To the resulting filtrate, 1 liter of toluene and 2 liters of water were added. Then, liquid separation was carried out to obtain an organic phase. The organic phase was washed with 1 liter of a 5% sodium hydroxide aqueous solution and then washed with 1 liter of water. The solvent and the starting difluorobenzene were distilled off under reduced pressure, and then quantitative determination was made by HPLC. As a result, the reaction yield of 1,3-bis(3-fluorophenoxy)benzene was 63%. The resulting crude compound was purified by vacuum distillation (bp 190° C./6.5 hPa) to obtain 109 g (0.365 mole, purity (HPLC): 99%, yield: 53%) of 1,3-bis(3-fluorophenoxy)benzene as a colorless oily product. The structure and the properties of the compound are as follows.

reactant | resorcinol | 0.693 mole, 76.4 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | m-difluorobenzene | 3.34 mole, 382 g | FC1=CC(=CC=C1)F | C6H4F2
reactant | potassium carbonate | 3.62 mole, 500 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,3-dimethyl-2-imidazolidinone | 1 liter | CN1C(N(CC1)C)=O | C5H10N2O
product | 1,3-bis(3-fluorophenoxy)benzene | 0.365 mole, 109 g, yield: 53% | FC=1C=C(OC2=CC(=CC=C2)OC2=CC(=CC=C2)F)C=CC1 | C18H12F2O2
